US07951805B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE HYDROCHLORIDE
Following the procedure as described in Example 1, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-cyclobutylethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide to react with piperidin-4-yl-(2-trifluoromethylphenyl)amine, the title compound was obtained as a white powder in 60% yield. 1H NMR (300 MHz, DMSO-d6) δ 8.70 (t, J=5.4 Hz, 1H), 7.91 (d, J=9.6 Hz, 1H), 7.62 (d, J=7.5 Hz, 1H), 7.42-7.36 (m, 2H), 7.00 (d, J=8.4 Hz, 1H), 6.68 (t, J=7.5 Hz, 1H), 4.42 (d, J=13.5 Hz, 2H), 3.81 (s, br., 1H), 3.30-3.13 (m, 4H), 2.29-2.16 (m, 1H), 1.99-1.97 (m, 4H), 1.84-1.55 (m, 8H). 13C NMR (75 MHz, DMSO-d6) δ 162.4, 144.8, 144.6, 134.0, 128.3, 127.2, 126.9, 116.8, 116.1, 113.5, 112.6, 49.3, 44.9, 37.4, 36.6, 33.7, 31.1, 28.2, 18.6. MS (ES+) m/z 448.3 (M+1-HCl).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclobutylethyl)amide | C1(CCC1)CCNC(=O)C=1N=NC(=CC1)Cl | C11H14ClN3O
reactant | piperidin-4-yl-(2-trifluoromethylphenyl)amine | N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | C12H15F3N2
product | 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE HYDROCHLORIDE | 60% yield | Cl.C1(CCC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C23H28F3N5O.ClH/c24-23(25,26)18-6-1-2-7-19(18)28-17-11-14-31(15-12-17)21-9-8-20(29-30-21)22(32)27-13-10-16-4-3-5-16;/h1-2,6-9,16-17,28H,3-5,10-15H2,(H,27,32);1H
